US04673746
2-chlororesorcinol dimethyl ether (3.4 g) is dissolved in 20 ml of CH2Cl2 and TiCl4 (4.3 ml) is added. To this solution is added dichloromethyl methyl ether (2.3 g). After 30 minutes the reaction mixture is poured into H2O into H2O and extracted with ether. Drying and evaporation gives 3-chloro-2,4-dimethoxybenzaldehyde, mp 107°-108° C.

reactant | 2-chlororesorcinol dimethyl ether | 3.4 g | COC1=C(C(OC)=CC=C1)Cl | C8H9ClO2
reactant | dichloromethyl methyl ether | 2.3 g | COC(Cl)Cl | C2H4Cl2O
reactant | H2O | O | H2O
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | TiCl4 | 4.3 ml | Cl[Ti](Cl)(Cl)Cl
product | 3-chloro-2,4-dimethoxybenzaldehyde | ClC=1C(=C(C=O)C=CC1OC)OC | C9H9ClO3
